US06037342
5-Chloro-2-(4-methyl-1-piperazinyl)benzoxazole
A 300 mg portion of 5-chloro-2-mercaptobenzoxazole was suspended in 50 ml of anhydrous benzene, and the suspension was mixed with 404 mg of phosphorus pentachloride and heated under reflux for 3 hours. The reaction solution was cooled in an ice bath and, with stirring, 1.6 g of 1-methylpiperazine was added thereto. After 30 minutes of stirring, the ice bath was removed to carry out 12 hours of stirring at room temperature, and then the reaction solution was mixed with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate and then the solvent was evaporated under a reduced pressure. Thereafter, the thus obtained mixture was purified by a silica gel column chromatography (ethyl acetate:methanol=20:1) to obtain the title compound (121 mg) in light yellow color.

reactant | 5-chloro-2-mercaptobenzoxazole | ClC=1C=CC2=C(N=C(O2)S)C1 | C7H4ClNOS
reactant | phosphorus pentachloride | 404 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1-methylpiperazine | 1.6 g | CN1CCNCC1 | C5H12N2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-Chloro-2-(4-methyl-1-piperazinyl)benzoxazole | 121 mg | ClC=1C=CC2=C(N=C(O2)N2CCN(CC2)C)C1 | C12H14ClN3O
